US05428168
To an ice cold mixture of lithium aluminium hydride (28 mg, 0.74 mmol) in dry diethyl ether (20 ml) was added dropwise methyl E-3-(3-pyridyl)acrylate (100 mg, 0.61 mmol) under argon. The resulting mixture was allowed to warm up to room temperature and stirred for 12 h. Water (0.1 ml), 15% aqueous sodium hydroxide (0.1 ml) and water (0.3 ml) were added sequentially over 0.5 h and the mixture allowed to stir for 1 h. The resulting suspension was filtered and the filtrate concentrated under reduced pressure. Flash chromatography (flash silica gel; 10% methanol in ethyl acetate) gave 3-(3-pyridyl)-1-propanol, which was discarded, and E-3-(3-pyridyl)-1-prop-2-enol (55 mg, 67%) as a colourless oil.

reactant | lithium aluminium hydride | 0.74 mmol, 28 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl E-3-(3-pyridyl)acrylate | 0.61 mmol, 100 mg | N1=CC(=CC=C1)/C=C/C(=O)OC | C9H9NO2
reactant | Water | 0.1 ml | O | H2O
reactant | sodium hydroxide | 0.1 ml | [OH-].[Na+]
reactant | water | 0.3 ml | O | H2O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | 3-(3-pyridyl)-1-propanol | N1=CC(=CC=C1)CCCO | C8H11NO
